US09212182B2
A THF (2.4 mL) solution of perfluorophenyl 1-(6-(3-fluorophenyl)-4-methoxypyridin-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (140 mg, 0.236 mmol) and 3-aminoisoxazole (19.20 μl, 0.260 mmol) in a 40-mL vial was cooled to 0° C. and subsequently treated with lithium bis(trimethylsilyl)amide, 1.0M solution in THF (496 μl, 0.496 mmol). After stirring the yellow solution at 0° C. for 20 min, the reaction was quenched at 0° C. with 1 N HCl and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a yellow residue. Column chromatography (25 g Snap Ultra column, 0-80% [3:1 EtOAc/EtOH]/hept gradient with 10% DCM) afforded racemic 1-(6-(3-fluorophenyl)-4-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide (76.6 mg, 0.156 mmol, 65.8% yield) as an amorphous white solid. 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.92 (s, 3 H) 6.46 (d, J=5.48 Hz, 1 H) 6.84 (d, J=9.64 Hz, 1 H) 6.92 (d, J=9.02 Hz, 1 H) 7.36 (d, J=8.22 Hz, 1 H) 7.61 (dd, J=7.98, 1.76 Hz, 1 H) 7.86 (dd, J=8.91, 2.28 Hz, 1 H) 7.92 (s, 1 H) 8.05-8.15 (m, 2 H) 8.27 (d, J=14.13 Hz, 1 H) 8.40 (d, J=2.18 Hz, 1 H) 8.50 (s, 1 H) 8.74 (d, J=1.76 Hz, 1 H) 11.67 (s, 1H). m/z (ESI) 493.0 (M+H)+. A portion of the racemic product was separated via Chiralpak AS-H (30% MeOH/70% CO2) to afford (P)-1-(6-(3-fluorophenyl)-4-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide (27 mg) and (M)-1-(6-(3-fluorophenyl)-4-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide (28 mg) as white amorphous solids. Data for peak 1: 1H NMR (400 MHz, DMSO-d6) δ ppm 3.92 (s, 3 H) 6.40 (d, J=1.45 Hz, 1 H) 6.82 (d, J=9.64 Hz, 1 H) 6.88 (d, J=9.02 Hz, 1 H) 7.36 (t, J=8.03 Hz, 1 H) 7.57-7.65 (m, 1 H) 7.84 (dd, J=8.97, 2.13 Hz, 1H) 7.92 (s, 1 H) 8.07 (dd, J=10.42, 2.02 Hz, 1 H) 8.11 (d, J=8.09 Hz, 1 H) 8.25 (d, J=9.74 Hz, 1 H) 8.36 (d, J=1.76 Hz, 1 H) 8.50 (s, 1 H) 8.65 (s, 1 H) 11.50-11.82 (m, 1 H). m/z (ESI) 493.2 (M+H)+. Data for peak 2: 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.92 (s, 3 H) 6.38 (d, J=1.35 Hz, 1 H) 6.81 (d, J=9.64 Hz, 1 H) 6.86 (d, J=8.81 Hz, 1 H) 7.35 (t, J=8.20 Hz, 1 H) 7.61 (dd, J=7.93, 1.81 Hz, 1 H) 7.83 (dd, J=8.97, 2.02 Hz, 1 H) 7.92 (s, 1 H) 8.07 (dd, J=10.42, 2.02 Hz, 1 H) 8.11 (d, J=7.98 Hz, 1 H) 8.24 (d, J=9.64 Hz, 1 H) 8.34 (d, J=1.97 Hz, 1 H) 8.49 (s, 1 H) 8.61 (s, 1 H) 11.50-11.79 (m, 1 H). m/z (ESI) 493.2 (M+H)+.

reactant | THF | 2.4 mL | C1CCOC1 | C4H8O
reactant | perfluorophenyl 1-(6-(3-fluorophenyl)-4-methoxypyridin-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.236 mmol, 140 mg | FC=1C=C(C=CC1)C1=CC(=C(C=N1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C27H14F6N2O5S
reactant | 3-aminoisoxazole | 0.260 mmol, 19.20 μl | NC1=NOC=C1 | C3H4N2O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 0.496 mmol, 496 μl | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc EtOH | CCOC(=O)C.CCO
product | racemic 1-(6-(3-fluorophenyl)-4-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide | 0.156 mmol, 76.6 mg, 65.8% yield | FC=1C=C(C=CC1)C1=CC(=C(C=N1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C24H17FN4O5S
